US05811433
j. Ethyl 7,8-dichloro-1-cyclopropyl-1,4-dihydro-4-oxo-1,6-naphthyridine-3-carboxylate
17.5 g (0.048 mol) of ethyl 2-(4,5,6-trichloronicotinoyl)-3-cyclopropylamino-acrylate are heated with 7.7 g (0.056 mol) of potassium carbonate in 100 ml of DMF at 60° C. for two hours. Ice-water is added to the cooled mixture, and the product is isolated.

reactant | ethyl 2-(4,5,6-trichloronicotinoyl)-3-cyclopropylamino-acrylate | 0.048 mol, 17.5 g | ClC1=C(C(=NC=C1C(=O)C(C(=O)OCC)=CNC1CC1)Cl)Cl | C14H13Cl3N2O3
reactant | potassium carbonate | 0.056 mol, 7.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | Ethyl 7,8-dichloro-1-cyclopropyl-1,4-dihydro-4-oxo-1,6-naphthyridine-3-carboxylate | ClC1=NC=C2C(C(=CN(C2=C1Cl)C1CC1)C(=O)OCC)=O | C14H12Cl2N2O3
